US07138395B2
Preparation of 6-oxo-piperidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (35):
To a solution of 6-oxo-piperidine-2-carboxylic acid methyl ester (3.58 g, 22.8 mmol), 4-dimethylaminopyridine (0.60 g, 4.9 mmol), and triethylamine (4.2 mL, 30 mmol) in CH2Cl2 (100 mL), di-t-butyldicarbonate (6.2 mL, 27 mmol) is added. After the consumption of the starting material, the reaction is diluted with EtOAc, washed with H2O (2×100 mL) and brine (1×100 mL), dried over MgSO4, filtered, and concentrated in vacuo to yield 5.16 g of crude product that is used in the next step without further purification. 1H NMR (CDCl3) δ 4.75 (dd, J=5.8, 4.0 Hz, 1H), 3.81 (s, 3H), 2.69–2.46 (m, 2H), 2.26–2.40 (m, 2H), 1.86–1.74 (m, 2H), 1.54 (s, 9H).

reactant | 6-oxo-piperidine-2-carboxylic acid methyl ester | 22.8 mmol, 3.58 g | COC(=O)C1NC(CCC1)=O | C7H11NO3
reactant | triethylamine | 30 mmol, 4.2 mL | C(C)N(CC)CC | C6H15N
reactant | di-t-butyldicarbonate | 27 mmol, 6.2 mL | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-dimethylaminopyridine | 4.9 mmol, 0.60 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 6-oxo-piperidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 5.16 g | COC(=O)C1N(C(CCC1)=O)C(=O)OC(C)(C)C | C12H19NO5
